US08420817B2
B.1 3-Nitro-7,8-dihydro-6H-pyrrolo[2′,1′:2,3]imidazo[4,5-b]pyridin-6-yl acetate
A mixture of 1 g (4.2 mmol) of 2-(pyrrolidin-1-yl)-3,5-dinitropyridine (Org. & Biomol. Chem. 2003, 1(6), 1004-1011) and 0.584 g (4.2 mmol) of zinc chloride in 10 ml of acetic anhydride is heated at reflux for six hours. After this time a further 0.584 g (4.2 mmol) of zinc chloride are added and the stirring at reflux is maintained for eighteen hours. After this time the mixture is poured onto 100 g of ice and then extracted with three times 50 ml of ethyl acetate. The organic phases are combined and then washed with twice 20 ml of saturated sodium hydrogen carbonate solution, once with 20 ml of water and then once with 50 ml of saturated sodium chloride solution, then dried over sodium sulfate and concentrated under reduced pressure. The product obtained is purified by chromatography on a silica column, eluting with a mixture of ethyl acetate and n-heptane. The resulting product is recrystallized from a mixture of diisopropyl ether and isopropanol. This gives 0.29 g of the expected compound.

reactant | 2-(pyrrolidin-1-yl)-3,5-dinitropyridine | 4.2 mmol, 1 g | N1(CCCC1)C1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C9H10N4O4
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | zinc chloride | 4.2 mmol, 0.584 g | [Cl-].[Zn+2].[Cl-]
catalyst | zinc chloride | 4.2 mmol, 0.584 g | [Cl-].[Zn+2].[Cl-]
product | 3-Nitro-7,8-dihydro-6H-pyrrolo[2′,1′:2,3]imidazo[4,5-b]pyridin-6-yl acetate | C(C)(=O)OC1CCN2C1=NC=1C2=NC=C(C1)[N+](=O)[O-] | C11H10N4O4
